US07491967B2
After 4-acetoxy-3-nitrohexane (11.34 g, 60 mmol) had been added to a reaction vessel, the vessel was replaced with nitrogen, and dry-THF (150 ml) and ethyl isocyanoacetate (7.28 ml, 66 mmol) were added. Then, DBU (20.76 ml, 144 mmol) was slowly dropped while the vessel was cooled in an ice bath, and the whole was stirred at room temperature for 12 hours. After the completion of the reaction, 1 N hydrochloric acid was added, the whole was extracted with chloroform, and the extract was washed with water and a saturated salt solution. The organic layer was dried with anhydrous sodium sulfate and concentrated under reduced pressure. After that, the concentrated product was purified by means of silica gel column chromatography to yield ethyl 3,4-diethylpyrrole-2-carboxylate (10.97 g, 94% yield).

reactant | 4-acetoxy-3-nitrohexane | 60 mmol, 11.34 g | C(C)(=O)OC(C(CC)[N+](=O)[O-])CC | C8H15NO4
reactant | ethyl isocyanoacetate | 66 mmol, 7.28 ml | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | DBU | 144 mmol, 20.76 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | ethyl 3,4-diethylpyrrole-2-carboxylate | 10.97 g, 94% yield | C(C)C1=C(NC=C1CC)C(=O)OCC | C11H17NO2
